US07129245B2
Preparation of N-(5-Chloropyridin-2-yl)-2-[[4-(1-pyrrolidinyl)piperidin-1-ylcarbanyl]amino]benzamide
Using a similar procedure to that described in Example 9-C, N-(5-chloropyridin-2-yl)-2-(4-oxopiperidin-1-ylcarbonyl)aminobenzamide (100 mg, 0.268 mmol) and pyrolidine (0.045 mL, 0.54 mmol) yielded the title compound.

reactant | N-(5-chloropyridin-2-yl)-2-(4-oxopiperidin-1-ylcarbonyl)aminobenzamide | 0.268 mmol, 100 mg | ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)NC(=O)N1CCC(CC1)=O)=O | C18H17ClN4O3
reactant | pyrolidine | 0.54 mmol, 0.045 mL | N1CCCC1 | C4H9N
product | N-(5-Chloropyridin-2-yl)-2-[[4-(1-pyrrolidinyl)piperidin-1-ylcarbanyl]amino]benzamide | ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)NCN1CCC(CC1)N1CCCC1)=O | C22H28ClN5O
